US07557112B2
A mixture of 514 mg of 4-azepane-1-yl-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine, 300 mg of sodium methoxide and 10 ml of MeOH was stirred in a sealed tube for 5 days at 120° C. After the reaction mixture was concentrated under reduced pressure, 40 ml of water was added to the obtained residue and extracted twice with 40 ml of chloroform. After the organic layer washed with a saturated saline solution and dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-MeOH) to give a solid. After 0.6 ml of 4M HCl-dioxane solution was added to 10 ml of chloroform-MeOH with this solid, the resultant was concentrated under reduced pressure to give a solid. After the obtained solid was recrystallized three times from EtOAc and EtOH, the crystal generated was filtered and washed with EtOAc to give 223 mg of 4-azepane-1-yl-2-(4-chloro-5-fluoro-2-methoxyphenyl)thieno[3,2-d]pyrimidine hydrochloride.

reactant | 4-azepane-1-yl-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine | 514 mg | N1(CCCCCC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)C=CS2 | C18H16ClF2N3S
reactant | sodium methoxide | 300 mg | C[O-].[Na+]
reactant | MeOH | 10 ml | CO | CH4O
reactant | HCl dioxane | 4M, 0.6 ml | Cl.O1CCOCC1
solvent | chloroform MeOH | 10 ml | C(Cl)(Cl)Cl.CO
product | 4-azepane-1-yl-2-(4-chloro-5-fluoro-2-methoxyphenyl)thieno[3,2-d]pyrimidine hydrochloride | 223 mg | Cl.N1(CCCCCC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)OC)C=CS2 | InChI=1S/C19H19ClFN3OS.ClH/c1-25-16-11-13(20)14(21)10-12(16)18-22-15-6-9-26-17(15)19(23-18)24-7-4-2-3-5-8-24;/h6,9-11H,2-5,7-8H2,1H3;1H
